US07829560B2
1-{2-[4-(3-Fluoro-5-piperidin-1-yl-benzoylamino)-naphthalen-1-yloxy]-ethyl}-piperidine-4-carboxylic acid ethyl ester (Compound B160).
Compound is prepared from N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide and piperidine-4-carboxylic acid ethyl ester according to conditions described in general procedure N. 1H NMR 300 MHz (CDCl3) 8.31 (dd, 1H, J=1.2 and 8.4 Hz), 7.88 (s, 1H), 7.83 (d, 1H, J=7.5 Hz), 7.73 (d, 1H, J=8.1Hz), 7.54 (m, 2H), 7.31 (s, 1H), 6.98 (d, 1H, J=7.8 Hz), 6.84 (d, 1H, J=8.4 Hz), 6.76 (d, 1H, J=11.7 Hz), 4.31 (t, 2H, J=5.7 Hz), 4.14 (q, 2H, J=6.9 Hz), 3.28 (m, 4H), 3.05 (m, 2H), 2.97 (t, 2H, J=5.7 Hz), 2.24-2.32 (m, 3H), 1.64-1.97 (m, 10H), 1.25 (t, 3H, J=7.5 Hz).

reactant | N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | ClCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C24H24ClFN2O2
reactant | piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCNCC1 | C8H15NO2
product | 1-{2-[4-(3-Fluoro-5-piperidin-1-yl-benzoylamino)-naphthalen-1-yloxy]-ethyl}-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C32H38FN3O4
